US09120812B2
2.5 g of [4-(6-ethyl-2-methanesulfonyl-8,8-dimethyl-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl)-2-fluorophenyl]carbamic acid tert-butyl ester (19.66 mmol) in 20 ml of dioxane are placed in 4 microwave tubes, respectively. One quarter of (S)-3-methylmorpholine (98.32 mmol) is added to each tube, respectively. The tubes are heated for 2 hours at 100° C. in a Biotage microwave machine. The reaction media are filtered and rinsed with MeOH. The solid is washed with water, with acetonitrile and then with pentane. 3.7 g of {4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-2-fluorophenyl}carbamic acid tert-butyl ester are obtained. The DMSO/MeOH phase is evaporated to dryness. The residue is taken up in water and filtered, rinsed with acetonitrile and then with pentane. This product is chromatographed on silica gel with a gradient of MeOH in DCM ranging from 0 to 5%. 1.7 g of {4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-2-fluorophenyl}carbamic acid tert-butyl ester are obtained.

reactant | [4-(6-ethyl-2-methanesulfonyl-8,8-dimethyl-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl)-2-fluorophenyl]carbamic acid tert-butyl ester | 19.66 mmol, 2.5 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)S(=O)(=O)C)F)=O | C23H29FN4O6S
reactant | (S)-3-methylmorpholine | 98.32 mmol | C[C@@H]1NCCOC1 | C5H11NO
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | {4-[6-ethyl-8,8-dimethyl-2-((S)-3-methylmorpholin-4-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-2-fluorophenyl}carbamic acid tert-butyl ester | 3.7 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2[C@H](COCC2)C)F)=O | C27H36FN5O5
